** sch_path: /foss/designs/switch_matrix_gf180mcu_9t5v0/testbenches/tb_varioues/tb_DFF_10.sch
**.subckt tb_DFF_10
V1 VSSd GND 0
V2 VDDd VSSd {VDD}
x3 data datab VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_2
x2 datab data_in VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_2
x4 clock clockb VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_2
x5 NEN EN VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_2
x6 clockb clock_in VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_2
x8 VSSd NEN VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_2
x9 data_in q[1] q[2] q[3] q[4] q[5] q[6] q[7] q[8] q[9] q[10] gc[1] gc[2] gc[3] gc[4] gc[5] gc[6] gc[7] gc[8] gc[9] gc[10]
+ clock_in clockb EN VDDd VSSd ShiftReg_row_10_2
x1 data_in q2[1] q2[2] q2[3] q2[4] q2[5] q2[6] q2[7] q2[8] q2[9] q2[10] gc2[1] gc2[2] gc2[3] gc2[4] gc2[5] gc2[6] gc2[7] gc2[8]
+ gc2[9] gc2[10] clock_in clockb NEN VDDd VSSd ShiftReg_row_10_2
**** begin user architecture code

.include /foss/pdks/gf180mcuD/libs.ref/gf180mcu_fd_sc_mcu9t5v0/spice/gf180mcu_fd_sc_mcu9t5v0.spice
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical



.param VDD = 3.3

*.global VDDd VSSd

* clock
abit [ bit_node ]  input_vector
.model input_vector d_source(input_file="/foss/designs/switch_matrix_gf180mcu_9t5v0/testbenches/data_source/data_swmatrix5_10.txt")
* data
aclock [ clock_node ] clock_vector
.model clock_vector d_source(input_file="/foss/designs/switch_matrix_gf180mcu_9t5v0/testbenches/data_source/data_swmatrix5_10_clk.txt")
* convert digital signals to analog
aconvert [ bit_node clock_node ] [ data clock ] dac_in
.model dac_in dac_bridge (out_low=0V out_high=3.3V t_rise=0.2ns t_fall=0.2ns)




.control

    save all
    TRAN 0.2n 350n
    write tb_DFF_10.raw

.endc


**** end user architecture code
**.ends

* expanding   symbol:  ShiftReg_row_10_2/ShiftReg_row_10_2.sym # of pins=8
** sym_path: /foss/designs/switch_matrix_gf180mcu_9t5v0/ShiftReg_row_10_2/ShiftReg_row_10_2.sym
** sch_path: /foss/designs/switch_matrix_gf180mcu_9t5v0/ShiftReg_row_10_2/ShiftReg_row_10_2.sch
.subckt ShiftReg_row_10_2 D_in Q[1] Q[2] Q[3] Q[4] Q[5] Q[6] Q[7] Q[8] Q[9] Q[10] gc[1] gc[2] gc[3] gc[4] gc[5] gc[6] gc[7] gc[8]
+ gc[9] gc[10] PHI_1 PHI_2 EN VDDd VSSd
*.ipin PHI_1
*.ipin PHI_2
*.ipin D_in
*.opin Q[1],Q[2],Q[3],Q[4],Q[5],Q[6],Q[7],Q[8],Q[9],Q[10]
*.iopin VDDd
*.iopin VSSd
*.iopin EN
*.iopin gc[1],gc[2],gc[3],gc[4],gc[5],gc[6],gc[7],gc[8],gc[9],gc[10]
xFF[1] Q[1] D_in PHI_1 gc[1] PHI_2 EN VDDd VSSd DFF_2phase_1
xFF[2] Q[2] Q[1] PHI_1 gc[2] PHI_2 EN VDDd VSSd DFF_2phase_1
xFF[3] Q[3] Q[2] PHI_1 gc[3] PHI_2 EN VDDd VSSd DFF_2phase_1
xFF[4] Q[4] Q[3] PHI_1 gc[4] PHI_2 EN VDDd VSSd DFF_2phase_1
xFF[5] Q[5] Q[4] PHI_1 gc[5] PHI_2 EN VDDd VSSd DFF_2phase_1
xFF[6] Q[6] Q[5] PHI_1 gc[6] PHI_2 EN VDDd VSSd DFF_2phase_1
xFF[7] Q[7] Q[6] PHI_1 gc[7] PHI_2 EN VDDd VSSd DFF_2phase_1
xFF[8] Q[8] Q[7] PHI_1 gc[8] PHI_2 EN VDDd VSSd DFF_2phase_1
xFF[9] Q[9] Q[8] PHI_1 gc[9] PHI_2 EN VDDd VSSd DFF_2phase_1
xFF[10] Q[10] Q[9] PHI_1 gc[10] PHI_2 EN VDDd VSSd DFF_2phase_1
.ends


* expanding   symbol:  DFF_2phase_1/DFF_2phase_1.sym # of pins=8
** sym_path: /foss/designs/switch_matrix_gf180mcu_9t5v0/DFF_2phase_1/DFF_2phase_1.sym
** sch_path: /foss/designs/switch_matrix_gf180mcu_9t5v0/DFF_2phase_1/DFF_2phase_1.sch
.subckt DFF_2phase_1 Q D PHI_1 gated_control PHI_2 EN VDDd VSSd
*.ipin D
*.ipin PHI_1
*.ipin PHI_2
*.opin Q
*.iopin VDDd
*.iopin VSSd
*.opin gated_control
*.ipin EN
xmain D PHI_1 out_m VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
xsecondary out_m PHI_2 Q VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__latq_1
* noconn VSSd
* noconn VDDd
x1 net1 gated_control VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__inv_1
x2 EN Q net1 VDDd VDDd VSSd VSSd gf180mcu_fd_sc_mcu9t5v0__nand2_1
.ends

.GLOBAL GND
.end
